US04822400
A solution of 42.2 g (0.2 mole) of 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-ethan-1-one in 150 ml of absolute dimethylformamide is added dropwise, at from 20° to 25° C., to a stirred suspension of 5.3 g (0.22 mole) of sodium hydride in 50 ml of absolute dimethylformamide, the suspension being kept under nitrogen. Stirring is continued for 3 hours, after which a solution of 49.4 g (0.2 mole) of 1-bromo-4-(2-fluorophenoxy)-butane in 50 ml of absolute dimethylformamide is added dropwise at 60° C. and the reaction mixture is then refluxed for a further 5 hours. About 100 ml of ice water are then carefully added dropwise at room temperature, and the mixture is extracted with three times 300 ml of methylene chloride. The organic phase is then washed several times with water, dried over Na2SO4 and evaporated down. Distillation (bp.=248° C./0.005) gives 56 g (74%) of 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-6(2-fluorophenoxy)-hexan-1-one as a yellowish resin.

reactant | 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-ethan-1-one | 0.2 mole, 42.2 g | CC1(COCOC1)C(CN1N=CN=C1)=O | C9H13N3O3
reactant | sodium hydride | 0.22 mole, 5.3 g | [H-].[Na+]
reactant | 1-bromo-4-(2-fluorophenoxy)-butane | 0.2 mole, 49.4 g | BrCCCCOC1=C(C=CC=C1)F | C10H12BrFO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-6(2-fluorophenoxy)-hexan-1-one | 56 g, 74% | CC1(COCOC1)C(C(CCCCOC1=C(C=CC=C1)F)N1N=CN=C1)=O | C19H24FN3O4
